US04806642
1-(Phenylmethoxy)-2-decanol
Benzyl alcohol (108 g, 1.0 mol) is added to a suspension of 50% sodium hydride-mineral oil (48 g, 1.0 mol) in DMF (200 ml) at room temperature. The mixture is then heated to 80° C. for two hours. A solution of 1,2-epoxydecane* (85 ml) in DMF (50 ml) is added slowly to the sodium salt over 30 minutes and the mixture is then heated at 80° C. for 20 hours. The reaction mixture is cooled, diluted with water, neutralized with acetic acid, and extracted with ether. The ether extract is concentrated to give an oil which is distilled to give the desired product (131 g), bp 178°-180° C./4 mm.

reactant | Benzyl alcohol | 1.0 mol, 108 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2-epoxydecane | O1CC1CCCCCCCC | C10H20O
reactant | sodium | [Na] | Na
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(Phenylmethoxy)-2-decanol | 131 g | C1(=CC=CC=C1)COCC(CCCCCCCC)O | C17H28O2
